US06100293
To a suspension of 1.00 g (5.3 mmol) of 2-bromo-benzenethiol and 1.47 g (10.6 mmol) of potassium carbonate in 15 ml of N,N-dimethylformamide was added 1.65 g (10.6 mmol) of iodoethane at 0° C. The reaction mixture was stirred at 55-60° C. for 12 h and was poured into 200 ml of ether. It was washed with water (20 ml×3), dried over MgSO4 and concentrated to afford 1-ethylsulfanyl-2-bromo-benzene as a colorless oil.

reactant | 2-bromo-benzenethiol | 5.3 mmol, 1.00 g | BrC1=C(C=CC=C1)S | C6H5BrS
reactant | potassium carbonate | 10.6 mmol, 1.47 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 10.6 mmol, 1.65 g | ICC | C2H5I
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-ethylsulfanyl-2-bromo-benzene | C(C)SC1=C(C=CC=C1)Br | C8H9BrS
